US07145012B2
Preparation of 3-(4-chloro-phenyl)-2-(2-chloro-phenyl)-5-isopropyl-2,4,5,6-tetrahydro-pyrrolo[3,4-c]pyrazole (8A-1)
A solution of 3-(4-chloro-phenyl)-2-(2-chloro-phenyl)-5-isopropyl-4,5-dihydro-2H-pyrrolo[3,4-c]pyrazol-6-one 3A-1 (7 mg, 0.018 mmol) and BH3THF (166 ml, 166 mmol) was stirred at room temperature for 1 hour and at 50° C. for 17 hours. After the reaction mixture was cooled to room temperature, MeOH (5 ml) was added. The reaction mixture was heated under reflux for 2 h, cooled to room temperature, and concentrated in vacuo. The residue was diluted with 4 M HCl/dioxanes (1 ml) and concentrated under vacuum. The residue was dissolved in CH2Cl2 and hexanes were added to precipitate 8A-1 as a colorless solid (2 mg, 27%): +APCI MS (M+H) 372.5; 1H NMR (CD3OD): δ 7.59–7.43 (m, 4H), 7.38 (d, 2H), 7.20 (d, 2H), 4.80–4.65 (m, 2H), 3.91–3.82 (m, 1H), 3.68–3.55 (m, 2H), 1.52 (d, 6H).

reactant | 3-(4-chloro-phenyl)-2-(2-chloro-phenyl)-5-isopropyl-4,5-dihydro-2H-pyrrolo[3,4-c]pyrazol-6-one | 0.018 mmol, 7 mg | ClC1=CC=C(C=C1)C1=C2C(=NN1C1=C(C=CC=C1)Cl)C(N(C2)C(C)C)=O | C20H17Cl2N3O
reactant | BH3THF | 166 mmol, 166 ml | B.C1CCOC1
solvent | MeOH | 5 ml | CO | CH4O
product | 3-(4-chloro-phenyl)-2-(2-chloro-phenyl)-5-isopropyl-2,4,5,6-tetrahydro-pyrrolo[3,4-c]pyrazole | ClC1=CC=C(C=C1)C1=C2C(=NN1C1=C(C=CC=C1)Cl)CN(C2)C(C)C | C20H19Cl2N3
